US04182758
A mixture of N-benzyloxy-N-(2-bromoethyl)-p-toluenesulfonamide (16.2 g.) and triethyl phosphite (21.0 g.) was stirred at 160° C. for 10 hours and then cooled to ambient temperature. To the reaction mixture was added ethyl acetate and water. The ethyl acetate layer was separated, washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give an oily residue (20.5 g.). A small volume of isopropyl ether was added to the residue to give crystals, which was separated by filtration and dried to give crystalline diethyl 2-(N-benzyloxy-N-tosylamino)ethylphosphonate (10.6 g.). The object compound (2.1 g.) was also recovered from the mother liquor by subjecting to a column chromatography on silicagel (developing solvent: chloroform)

reactant | N-benzyloxy-N-(2-bromoethyl)-p-toluenesulfonamide | 16.2 g | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=CC=C(C=C1)C)CCBr | C16H18BrNO3S
reactant | triethyl phosphite | 21.0 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | water | O | H2O
product | diethyl 2-(N-benzyloxy-N-tosylamino)ethylphosphonate | 10.6 g | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=CC=C(C)C=C1)CCP(OCC)(OCC)=O | C20H28NO6PS
